US07872139B2
3-[5-(4-Benzenesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-1,1-dicyclohexyl-urea
Prepared as described in general procedure (Q) using 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride (36 mg, 0.08 mmol), DIEA (42 μL, 0.24 mmol) and benzenesulfonyl chloride (20 μL, 0.16 mmol) to afford 37 mg (68%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride | 0.08 mmol, 36 mg | Cl.C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCNCC1)C1CCCCC1
reactant | DIEA | 0.24 mmol, 42 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzenesulfonyl chloride | 0.16 mmol, 20 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 3-[5-(4-Benzenesulfonyl-piperazin-1-ylmethyl)-thiazol-2-yl]-1,1-dicyclohexyl-urea | 37 mg, 68% | C1(=CC=CC=C1)S(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(N(C1CCCCC1)C1CCCCC1)=O | C27H39N5O3S2
